US07511050B2
Step E: 2-bromo-4-pentyl-1,4-dihydro-9H-[1,2,4]triazolo[1,5-a]purin-9-one
To the mixture of 4-pentyl-1,4-dihydro-9H-[1,2,4]triazolo[1,5-a]purin-9-one (19 mg, 0.077 mmol) in tetrahydrofuran (10 mL) was added N-bromosuccinimide (20 mg, 0.12 mol) at rt. The mixture was stirred at 70° C. for 1 hour. The mixture was concentrated and purified by preparative LCMS to yield the desired product (3.10 mg, 12.4%). LCMS calculated for C11H14BrN6O(M+H): 325.0; found: 325.0, 327.0.

reactant | 4-pentyl-1,4-dihydro-9H-[1,2,4]triazolo[1,5-a]purin-9-one | 0.077 mmol, 19 mg | C(CCCC)N1C=2N(C(C=3NC=NC13)=O)N=CN2 | C11H14N6O
reactant | N-bromosuccinimide | 0.12 mol, 20 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | 2-bromo-4-pentyl-1,4-dihydro-9H-[1,2,4]triazolo[1,5-a]purin-9-one | 3.10 mg, 12.4% | BrC1=NC=2N(C=3N(C(C2N1)=O)N=CN3)CCCCC | C11H13BrN6O
